US07459554B2
3-[8-Amino-1-(3-benzyloxy-phenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutanecarbaldehyde:
To a methylene chloride solution (6.0 mL) of 1-(3-Benzyloxy-phenyl)-3-(3-methoxymethylene-cyclobutyl)-imidazo[1,5-a]pyrazin-8-ylamine (287.0 mg, 0.696 mmol), CF3CO2H (0.11 mL, 1.392 mmol) was added, followed by H2O (0.5 mL). The reaction mixture was allowed to react for 1 h at rt. After which an ethanolic solution (5.0 mL) of K2CO3 (192.3 mg, 1.392 mmol) was added to the reaction and allowed to stir at rt for an additional 2 h. The reaction mixture extracted between water and EtOAc. The organic layers were washed with brine (1×), dried over Na2SO4, filtered and concentrated in vacuo to yield the desired product as a brown solid; 1H NMR (CDCl3, 400 MHz) (mixture of cis and trans isomers) δ 2.45-2.84 (m, 4H), 3.25-3.32 (m, 1H), 3.74-3.79 (m, 1H), 5.22 (s, 2H), 6.84-6.85 (m, 1H), 7.00-7.17 (m, 5H), 7.27-7.39 (m, 6H), 9.69 (s, 1H), 9.88 (s, 1H); MS (ES) 399.07 (M+1), 400.0 (M+2), 401.0 (M+3).

reactant | methylene chloride | 6.0 mL | C(Cl)Cl | CH2Cl2
reactant | 1-(3-Benzyloxy-phenyl)-3-(3-methoxymethylene-cyclobutyl)-imidazo[1,5-a]pyrazin-8-ylamine | 0.696 mmol, 287.0 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)N)C2CC(C2)=COC | C25H24N4O2
reactant | CF3CO2H | 1.392 mmol, 0.11 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | K2CO3 | 1.392 mmol, 5.0 mL, 192.3 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 0.5 mL | O | H2O
product | 3-[8-Amino-1-(3-benzyloxy-phenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutanecarbaldehyde | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)C2CC(C2)C=O | C24H22N4O2
